Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Thorazine / Penicillins / Lithium / Cipro
 
Attending: ___.
 
Chief Complaint:
Worsening renal function and dropping hct
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ F who was comitted to ___, sent to ED for evaluation 
of worsening renal function. Per faxed reports, Cr on ___ was 
1.7, 2.2 on ___, 2.4 on ___. It was also noted that her Hct was 
dropping from 35.7 --> 27.7 --> 29.4. Because of elevated Cr and 
decreasing Hct, decided to send to ___ for further evaluation. 
 
  
In the ED, initial VS ___ 16 98% RA. Patient refused 
rectal exam and urine sample, urinated on floor instead. Labs 
show normocytic anemia to 27.9, Cr of 2.8, BUN 54, Na 148, K 
5.2, urine tox negative, and valproate pending. EKG showed sinus 
rhythm with no signs of hyperkalemia. She received 1L normal 
saline. Vitals on transfer were 97.6 po, 87, 127/87, 14, 98%. 
Was not seen by psych in the ED.  
 
Currently, the patient complains of being drowsy. Denies PMHx of 
hypertension or diabetes.  She does note that for the last ___ 
days she has experienced burning with urination, denies 
increased urgency or frequency.  Reports a sore throat, no 
fever, did have painful lymph nodes that self resolved about 2 
weeks ago, but does not remember being treated for the 
infection.  As far as fluid intake, she has been drinking "a lot 
of sugary drinks" and "coffee", but "does not care for water."  
No changes in dietary habits, denies any sick contacts or recent 
travel.  
 
Past Medical History:
Schizoaffective disorder  
Denies previous inpt psych admissions, suicide attempts
history of kidney disease from lithium, followed by a Dr. ___ 
(___).  
 
Social History:
___
Family History:
Reports Family History of renal cancer in her mother, heart 
attacks in aunts/uncles - no family history of other medical 
disease. 
 
Physical Exam:
VS: 96.6 104/58 83 20 99%RA  
GENERAL: Currently refusing exam, but the following exam was 
performed overnight
Gen: NAD, pleasant female  
HEENT: Dry mucous membranes, clear OP, EOMI  
Neck: Supple, no LAD  
CV: RRR, +S1, S2  
Resp: CTA bilaterally  
Abd: soft, NT/ND, +BS, no HSM  
Ext: w/WP, no edema, 2+ distal pulses  
Skin: no rashes seen  
Neuro: ___ strength, no gross deficits  
Psych: denies hearing voices, feels safe currently 

DISCHARGE EXAM:
VS: 97.3 100/64 83 16 98%RA  
GENERAL: NAD, pleasant 
HEENT: Dry mucous membranes, clear OP, EOMI, non-injected 
conjunctiva, PERRL  
Neck: Supple, no LAD  
CV: RRR, +S1, S2  
Resp: CTA bilaterally  
Abd: soft, NT/ND, +BS, no HSM  
Ext: w/WP, no edema, 2+ distal pulses  
Skin: no rashes seen  
Neuro: ___ strength, no gross deficits  
Psych: denies hearing voices, feels safe currently 
 
Pertinent Results:
Admission labs:
___ 07:10PM BLOOD WBC-7.2 RBC-2.99* Hgb-9.5* Hct-27.9* 
MCV-93 MCH-31.9 MCHC-34.2 RDW-14.9 Plt ___
___ 07:10PM BLOOD Neuts-61.6 ___ Monos-9.4 Eos-1.5 
Baso-0.4
___ 07:10PM BLOOD Ret Aut-2.8
___ 07:10PM BLOOD Glucose-104* UreaN-54* Creat-2.8* Na-148* 
K-5.2* Cl-114* HCO3-24 AnGap-15
___ 07:10PM BLOOD LD(LDH)-179
___ 07:10PM BLOOD Calcium-8.5 Phos-4.6* Mg-2.3 Iron-49
___ 07:10PM BLOOD calTIBC-320 VitB12-470 Folate-9.1 
___ Ferritn-73 TRF-246
___ 07:10PM BLOOD TSH-3.6
___ 07:10PM BLOOD Lithium-LESS THAN  Valproa-84
___ 07:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:30AM URINE Color-Straw Appear-Clear Sp ___
___ 04:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 04:30AM URINE Eos-POSITIVE  
___ 04:30AM URINE Hours-RANDOM UreaN-242 Creat-22 Na-76 K-7 
Cl-55 TotProt-10 Prot/Cr-0.5* Albumin-5.4 Alb/Cre-245.5*
___ 04:30AM URINE Osmolal-250

Discharge Labs:
___ 09:30AM BLOOD WBC-5.5 RBC-2.82* Hgb-9.0* Hct-27.3* 
MCV-97 MCH-31.9 MCHC-32.9 RDW-14.5 Plt ___

___ 4:30 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    <10,000 organisms/ml. 

___ 09:30AM BLOOD Glucose-157* UreaN-44* Creat-2.3* Na-146* 
K-4.6 Cl-113* HCO3-24 AnGap-14
___ 09:30AM BLOOD Calcium-8.6 Phos-5.0* Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ yo female with a h/o schizoaffective 
disorder and chronic kidney disease stage IV that was admitted 
for reported worsening renal function and a fall in her 
hematocrit.  Her Creatinine on admission was 2.8.  Urine culture 
was negative for infection and the urinalysis was unremarkable.  
She was started on IVF on admission as pt appeared dehydrated 
and Cr decreased from 2.8->2.5->2.3 on discharge.  Upon 
obtaining records from her Nephrologist Dr. ___ became 
aware the the pt has chronic kidney disease with a Cr of 2.4 in 
___.  Therefore it appears that the pt is at or slightly below 
her baseline renal function, which is chronically impaired 
reported secondary to a history of lithium toxicity.

#Acute kidney Injury - Her Creatinine on admission was 2.8.  
Urine culture was negative for infection and the urinalysis was 
unremarkable.  She was started on IVF on admission as pt 
appeared dehydrated and Cr decreased from 2.8->2.5->2.3 on 
discharge.  Upon obtaining records from her Nephrologist Dr. 
___ became aware the the pt has chronic kidney disease 
with a Cr of 2.4 in ___.  Therefore it appears that the pt is 
at or slightly below her baseline renal function, which is 
chronically impaired reported secondary to a history of lithium 
toxicity.

# Normocytic Anemia -  Most likely related to chronic renal 
failure. B12 and folate, TSH were within normal limits. Iron 
studies do not indicate deficiency.  LDH and retic count within 
normal limits ruling againt hemolytic cause. 

# Hypernatremia - Per reports, this is a chronic finding.  
Likely caused by decreased free water intake vs. chronic 
nephrogenic diabetes insipidus from previous lithium use. 

# Hyperkalemia - Likely related to renal failure. EKG shows no 
signs of hyperkalemia at this time.  Pt's potassium was lowered 
from 5.2 to 4.5 with a dose of kayexalate. 
  
# Psychiatric History - Pt is committed to ___.  
Appreciate psych recs. Needs 1:1 sitter given psych history.  No 
suicidal ideations/ hallucinations or delusions during her stay.

Pt will be discharged back to her residence at the ___.  
She should have apppropriate follow up with her nephrologist Dr. 
___ to monitor her CKD and f/u with her PCP for an ___ 
anemia work-up.
 
Medications on Admission:
Depakote 500mg BID  
Cogentin 1mg BID  
Neurontin 100mg TID  
Haldol 15mg qHS  
Bactrim DS 1 tab BID started on ___ (for UTI)
 
Discharge Medications:
1. haloperidol 5 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
2. gabapentin 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
3. benztropine 0.5 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
4. divalproex ___ mg Capsule, Sprinkle Sig: Four (4) Capsule, 
Sprinkle PO BID (2 times a day).  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic kidney disease
Anemia, possibly from chronic kidney disease
Hypernatremia
Schizoaffective disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,
     It was a pleasure taking care of you at ___ 
___.  You were admitted with what appeared 
to be a worsening of your renal function and a drop in your 
blood count.  We recieved records from your nephrologist that 
you actually have chronic kidney disease and your kidney 
function was close to normal.  We gave you fluids to rehydrate 
you and your kidney function returned to your baseline.  We ran 
a number of tests to find out the cause of your anemia.  We 
believe it may be related to your chronic kidney disease.  You 
will follow up with your primary care provider to look for the 
definitive cause.
 
Followup Instructions:
___